US05234946
10.0 g of 3-hydroxybenzaldehyde and 9.55 g of a 40% methanol solution of methylamine were mixed, and then the solvent was evaporated. The resulting Schiff base was dissolved in 50 ml of ethanol, and with stirring under ice cooling, 10.0 g of sodium borohydride was added. The mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, and ethyl acetate and a saturated aqueous solution of sodium chloride were added to extract it. The organic layer was separated, and dried over anhydrous sodium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography Wakogel C-100, 100 g; eluting solvent: methylene chloride/methanol=10/1→5/1) to give 8.88 g (yield Λ%) of N-methyl-3-hydroxybenzylamine as pale yellow crystals, m.p. 138°-140° C.

reactant | 3-hydroxybenzaldehyde | 10.0 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | methylamine | CN | CH5N
solvent | methanol | CO | CH4O
product | N-methyl-3-hydroxybenzylamine | 8.88 g | CNCC1=CC(=CC=C1)O | C8H11NO
